US04387208
The general experimental procedure for the synthesis of polymers of types III and type VII was as follows: Sodium p-bromophenoxide was prepared by adding a solution of p-bromophenol in dioxane (100 mL of dioxane was usually employed) to a stirred suspension of a molar excess of sodium hydride and dioxane (100 mL). After 4 hours, the reaction mixture was heated to reflux and filtered. The filtrate was added to a stirred solution of poly(dichlorophosphazene) in dioxane (150 mL). The reaction mixture was stirred for 4-8 hours at 25° C. and was then added to a solution of sodium phenoxide prepared in a similar manner to the preparation of sodium p-bromophenoxide, in boiling dioxane (250 mL). The reaction mixtures were refluxed for 168 hours and concentrated by rotoevaporation, and the concentrate was added to water. The precipitate was collected, washed with ethanol, redissolved in hot tetrahydrofuran (THF) and precipitated into water. The reprecipitation procedure was carried out once from THF into water, from THF into ethanol, and from THF into pentane. The yields of the polymers represented by VII exceeded 50%. The preparation of polymer III was carried out by obtaining a solution of sodium p-bromophenoxide in dioxane, prepared by the method described above, was heated to reflux and filtered into a reaction vessel (three-necked, 1-L capacity). A solution of poly(dichlorophosphazene) in dioxane (150 mL) was added dropwise to the sodium p-bromophenoxide solution at reflux. The reaction mixture was heated at reflux for 168 hours and concentrated by rotoevaportion, and the concentrate was added to water. The precipitate was washed with ethanol and an unsuccessful attempt was made to dissolve the polymer in tetrahydrofuran. The polymer was recovered from tetrahydrofuran by filtration and then dissolved in boiling dioxane. The hot solution was filtered and reprecipitated into water. The recovered polymer was redissolved in boiling dioxane and reprecipitated once again into water. The polymer was further reprecipitated from dioxane into ethanol and then from dioxane into pentane. The yield of III was 30%.

reactant | p-bromophenol | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | sodium hydride | [H-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | sodium p-bromophenoxide | BrC1=CC=C([O-])C=C1.[Na+] | InChI=1S/C6H5BrO.Na/c7-5-1-3-6(8)4-2-5;/h1-4,8H;/q;+1/p-1
